Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
C2 fracture from mechanical fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with PMH of hypothyroidism and dementia who
presents after he had a fall this AM. Patient lives in
independent living. This AM, patient got up and went to the
bathroom and had a bowel movement. He then left the bathroom and
put on his slippers and walked to his bed where he then fell
backwards. He uses a walker when walking outside of his
apartment, but only uses a cane in the apartment. He was using a
cane when he fell. Patient thinks he tripped and fell but is not
sure, does not think he lost consciousness but did hit his head.
He was able to crawl and get to his call button within a few
minutes. Patient's daughter states that his last fall was
approximately ___ years ago. Patient denies recent illness,
dizziness, or any history of syncope or presyncope, 
palpitations.

He was sent to ___ where he had a CT head and
C-spine showing an unstable C2 fracture. Patient was kept in a
c-collar and  transferred to ___ for neurosurgery evaluation.

CT spine shows unstable C2 fracture.

In the ED, initial VS were:
98.3
87
171/87
12
94% RA

Exam notable for right sided head laceration with skin flap,
normal neuro exam.

Labs notable for Na 146, WBC 11.3, 

CT head unremarkable, CT C-spine (from ___) showed
unstable C2 fracture. CTA neck confirmed type 3 odontoid 
fracture
and comminuted fracture through the C2 vertebral body, without
vascular compromise.

EKG showed NSR with AV delay.

Patient received: 2mg IV morphine, 1g IV tylenol, and 1L NS.

Spine and trauma surgery were consulted, recommended keeping
patient in a C-collar for 4 weeks with f/u for repeat C-spine
x-rays at that time. 

Transfer VS were:
59
140/85
18
95% RA

On arrival to the floor, patient reports no pain. He 
specifically
denies dizziness/light-headedness, thirst, chest pain, palps,
dyspnea, cough, n/v/d. 

 
Past Medical History:
Hyperlipidemia
Hypothyroidism
Dementia

 
Social History:
___
Family History:
NC to presenting complaint
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  ___
GENERAL: NAD  
HEENT: complex lac on R forehead with matted blood, no active
bleeding. ~13 sutures in place. PERRLA, EOMI, slightly dry MM.
NECK: c-collar in place
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB anteriorly 
ABDOMEN: soft, NTND
EXTREMITIES: no cyanosis, clubbing, or edema, L hand wrapped 
NEURO: alert to year, situation, president, not place. Responds
to questions appropriately. ___ strength ___ UEs and LEs
throughout
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:
VS: 97.4 99 / 62 ___
GENERAL: NAD  
HEENT: complex lac on R forehead with matted blood, no active
bleeding. ~13 sutures in place. PERRLA, EOMI, slightly dry MM.
NECK: c-collar in place
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB anteriorly 
ABDOMEN: soft, NTND
EXTREMITIES: no cyanosis, clubbing, or edema, L hand wrapped 
NEURO: alert to year, situation, president, not place. Responds
to questions appropriately. ___ strength ___ UEs and LEs
throughout
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

 
Pertinent Results:
ADMISSION LABS:

IMAGING:
CXR ___
IMPRESSION:  
  
Mild bilateral vascular pulmonary congestion.  There is mild 
cardiomegaly.  
Left retrocardiac opacity may represent atelectasis but cannot 
fully exclude 
pneumonia.  No grossly displaced rib fractures are noted. 
  

CTA ___
IMPRESSION: 
  
  
1. Type 3 odontoid fracture, comminuted, extending into 
bilateral C2 
transverse foramina with slight displacement of the fracture 
fragment into the 
ventral aspect of the left transverse foramen. 
2. Left vertebral artery demonstrates minimal luminal 
irregularity as it exits 
the left C2 transverse foramen.  While no dissection flap is 
seen, trace 
intramural hematoma cannot be excluded on the basis of this 
exam. 
3. No evidence for right vertebral artery dissection. 
4. Moderate to severe narrowing of the right vertebral artery by 
uncovertebral 
osteophytes at C4-C5 and C5-C6, mild to moderate narrowing of 
the left 
vertebral artery by uncovertebral osteophytes at C4-C5, and 
moderate narrowing 
of the left vertebral artery by uncovertebral osteophytes at 
C3-C4. 
5. While this exam is not technically optimized for evaluation 
of the 
partially included intracranial arteries, in the absence of 
dedicated 3D  
reformatted images, mild irregular narrowing of the P2 segment 
of the right 
posterior cerebral artery is noted, likely atherosclerotic. 
6. Mosaic attenuation of the included upper lungs could be 
secondary to air 
trapping in the setting of incomplete expansion, but pulmonary 
edema cannot be 
excluded.  Please correlate clinically. 
  
RECOMMENDATION(S):  If clinically warranted, axial T1 weighted 
fat-suppressed 
images of the neck could be obtained to assess for trace 
intramural hematoma 
of the left vertebral artery at the level of the fractured left 
C2 transverse 
foramen. 
  
NOTIFICATION:  The following preliminary report was provided 
electronically at 
17:32 on ___ ___: "At the level of the right 
C4 and C5 
transverse foramen and left C3 and C4 transverse foramen, facet 
hypertrophy 
and osteophyte formation result in moderate to severe stenosis 
of the 
bilateral V2 vertebral artery (2; 163, 147).  Mild luminal 
irregularity of the 
left V3 segment of the vertebral artery at the level of the C2 
vertebral body 
is noted without occlusion or evidence of dissection.  Dense 
atherosclerotic 
calcifications of the aortic arch is noted.  Re-demonstration of 
the type 3 
odontoid fracture and comminuted fracture through the C2 
vertebral body.  
Final read pending 3D reformats." 
  

DISCHARGE LABS:

___ 04:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:05PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 11:55AM   GLUCOSE-109* UREA N-21* CREAT-1.0 SODIUM-146* 
POTASSIUM-4.2 CHLORIDE-108 TOTAL CO2-25 ANION GAP-13
___ 11:55AM   cTropnT-<0.01
___ 11:55AM   WBC-11.3* RBC-4.00* HGB-13.2* HCT-40.4 
MCV-101* MCH-33.0* MCHC-32.7 RDW-13.5 RDWSD-50.6*
___ 11:55AM   NEUTS-66.6 ___ MONOS-5.8 EOS-0.6* 
BASOS-0.4 IM ___ AbsNeut-7.54* AbsLymp-2.97 AbsMono-0.66 
AbsEos-0.07 AbsBaso-0.04
___ 11:55AM   ___ PTT-24.6* ___
___ 06:00AM BLOOD WBC-7.0 RBC-3.87* Hgb-12.6* Hct-37.9* 
MCV-98 MCH-32.6* MCHC-33.2 RDW-13.3 RDWSD-47.8* Plt ___
___ 06:00AM BLOOD Glucose-92 UreaN-15 Creat-0.9 Na-142 
K-3.8 Cl-104 HCO3-24 AnGap-14
 
Brief Hospital Course:
SUMMARY
================
___ year old man with hypothyroidism, mild dementia, presenting
from independent senior living after a fall, found to have
unstable C2 fracture at ___ with unremarkable CT 
head, transferred to ___.

ACUTE ISSUES:
===============
#C2 fracture: At ___, he had a CT head and C-spine. 
CT head was unremarkable. CT C-spine showed comminuted fractures 
through the base of the odontoid extending into the body of C2 
and transverse foramina. Evaluated at ___ by neurosurgery 
team. CTA neck at ___ showed left vertebral artery 
demonstrates minimal luminal irregularity with no dissection 
flap. Neurosurgery consulted regarding clinical significance of 
finding and reassured unlikely to be hematoma and recommend no 
further imaging. Recommended 4 weeks of c-collar, initially 
placed on ___, with outpatient follow-up with neurosurgery 
for repeat radiographs to evaluate the C-spine fracture. Pain 
well-controlled with Tylenol and did not require additional pain 
meds.

#Fall: mechanical seems most likely given lack of prodrome, 
patient able to brace himself to some degree given no 
significant injury to front of body and injury to L hand, and 
patient using only cane and not walker. Patient noted to have 
one episode of bradycardia to mid ___, but no clear associated 
symptoms. EKG in emergency room was normal with negative trop. 
TSH within normal limits. No abnormalities seen on tele during 
hospitalization. Evaluated by physical therapy and occupational 
therapy with recommendation for skilled nursing facility 
placement. Had laceration to right forehead treated with sutures 
in the ED.

#Hypernatremia to 146, resolved with IL of IVF in the ED. Likely 
secondary to decreased po intake.

CHRONIC ISSUES
=================
#Dementia: continue home donepezil, replace home namenda XR with
namenda short-acting BID

#Hypothyroidism: Continue home levothyroxine. TSH WNL.

Greater than 30 minutes spent in care coordination and 
counseling on the day of discharge. 

TRANSITIONAL ISSUES
======================  
[ ] Please have patient be seen by neurosurgery 1 month after 
admission (___) to get repeat imaging to evaluate C-spine.

- New Meds: Tylenol for pain  
- Stopped/Held Meds: none
- Changed Meds: none
- Post-Discharge Follow-up Labs Needed: none  

#CODE: DNR/DNI
#CONTACT: ___ (daughter): ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Donepezil 10 mg PO QHS 
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. Memantine 10 mg PO BID 
4. Pravastatin 20 mg PO QPM 
5. Vitamin D 1000 UNIT PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Donepezil 10 mg PO QHS  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Levothyroxine Sodium 112 mcg PO DAILY  
5.  Memantine 10 mg PO BID  
6.  Pravastatin 20 mg PO QPM  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=========================
- mechanical fall
- C2 fracture

SECONDARY DIAGNOSES
=========================
- Hypothyroidism

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You were admitted for a fall.

WHAT HAPPENED IN THE HOSPITAL?
-You underwent imaging of your head and neck which showed a
fracture in your cervical spine at the C2 level.  There was no
evidence of a brain bleed or vascular issue which is reassuring.
-A C-collar was placed to stabilize your neck.
-The laceration on your forehead was treated with sutures.

WHAT SHOULD YOU DO AT HOME?
-Please follow-up with your primary care physician.
-Please keep the c-collar in place until you are evaluated by
spinal surgery.  You will get repeat imaging in 1 month.

Thank you for allowing us be involved in your care, we wish you
all the best!

Your ___ Team
 
Followup Instructions:
___